US07230001B1
3-{1-[4-(3,4-dichlorophenyl)-1,4-dioxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone
Prepared analogously to Example 2 from 3,4-dichloro-γ-oxobenzenebutanoic acid and 3-(4-piperidinyl)-3,4-dihydro-2(1H)-quinazolinone in the presence of TBTU in a yield of 73% of theoretical. Colourless crystals, m.p. 224–226° C. and Rf 0.15 (El EE).

reactant | 3,4-dichloro-γ-oxobenzenebutanoic acid | ClC=1C=C(C=CC1Cl)C(CCC(=O)O)=O | C10H8Cl2O3
reactant | 3-(4-piperidinyl)-3,4-dihydro-2(1H)-quinazolinone | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | 3-{1-[4-(3,4-dichlorophenyl)-1,4-dioxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone | yield of 73% | ClC=1C=C(C=CC1Cl)C(CCC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C23H23Cl2N3O3
